US07553833B2
In a manner similar to the method described in example 2 (method A), rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(1-methyl-propenyl)spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (120 mg, 0.29 mmol) was reacted with NaN3 (47.1 mg, 0.72 mmole) in the presence of TiCl4 (1.0 M in CH2Cl2, 0.29 mL) (Aldrich) in acetonitrile (10 mL) followed by chiral chromatography separation to give 3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5(E)-(1-methyl-1-propenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (13.5 mg): HRMS (ES+) m/z Calcd for C23H22Cl2N2O2+H [(M+H)+]: 429.1131. Found: 429.1131; (3R,4S,5S)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3(E)-(1-methyl-1-propenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (15.8 mg): HRMS (ES+) m/z Calcd for C23H22Cl2N2O2+H [(M+H)+]: 429.1131. Found: 429.1131; (3S,4R,5R)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5(E)-(1-methyl-1-propenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (13.7 mg): HRMS (ES+) m/z Calcd for C23H22Cl2N2O2+H [(M+H)+]: 429.1131. Found: 429.1131; and (3S,4R,5R)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3(E)-(1-methyl-1-propenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (14.5 mg): HRMS (ES+) m/z Calcd for C23H22Cl2N2O2+H [(M+H)+]: 429.1131. Found: 429.1131.

reactant | rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(1-methyl-propenyl)spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.29 mmol, 120 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3C(=CC)C)=O)C3=CC(=CC=C3)Cl | C23H21Cl2NO2
reactant | NaN3 | 0.72 mmole, 47.1 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | TiCl4 | 1.0 M, 0.29 mL | Cl[Ti](Cl)(Cl)Cl
product | 6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5(E)-(1-methyl-1-propenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 13.5 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CNC(CC3\C(=C\C)\C)=O)C3=CC(=CC=C3)Cl | C23H22Cl2N2O2
